US09212182B2
A vial was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide (201.5 mg, 0.407 mmol), (4-fluorophenyl)boronic acid (114 mg, 0.814 mmol), 1,1-bis[(di-t-butyl-p-methylaminophenyl]palladium(ii) chloride (28.8 mg, 0.041 mmol), and potassium phosphate (259 mg, 1.221 mmol). The vial was flushed with Ar (g), then 1,4-dioxane (1627 μl) and water (407 μl) were added. The vial was sealed and heated to 80° C. for 30 min. The mixture was cooled, the layers were separated, and the aq. layer was extracted with EtOAc. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was dissolved in MeOH and filtered through a 0.2 micron filter. The filtrate was purified by reverse-phase HPLC (25-70% CH3CN/H2O with 0.1% TFA). Fractions containing clean desired product were combined and lyophilized to give 1-(2,4′-difluoro-5-methoxy-4-biphenylyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinoxalinesulfonamide (107 mg, 82% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ=11.76 (s, 1H), 8.76 (d, J=1.9 Hz, 1H), 8.50 (s, 1H), 8.32 (d, J=2.2 Hz, 1H), 7.95 (dd, J=2.3, 8.9 Hz, 1H), 7.76 (ddd, J=1.5, 5.4, 8.8 Hz, 2H), 7.56 (d, J=10.3 Hz, 1H), 7.46-7.37 (m, 3H), 7.01 (d, J=8.9 Hz, 1H), 6.49 (d, J=2.0 Hz, 1H), 3.80 (s, 3H). m/z (ESI) 511.0 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonamide | 0.407 mmol, 201.5 mg | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C18H12BrFN4O5S
reactant | (4-fluorophenyl)boronic acid | 0.814 mmol, 114 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 1.221 mmol, 259 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | (di-t-butyl-p-methylaminophenyl]palladium(ii) chloride | 0.041 mmol, 28.8 mg | C(C)(C)(C)C=1C(=C(C=CC1NC)[Pd]Cl)C(C)(C)C
product | 1-(2,4′-difluoro-5-methoxy-4-biphenylyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinoxalinesulfonamide | 107 mg, 82% yield | FC1=C(C=C(C(=C1)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)C1=CC=C(C=C1)F | C24H16F2N4O5S
